US04284559
Cis-10-methoxy-2-methyl-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine hydrochloride
1 g cis-10-hydroxy-2-methyl-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine is suspended in 25 ml methanol, after which 2 ml of a saturated solution of HCl in methanol is added and the mixture is boiled for about 1 hour with exclusion of moisture. The solution is evaporated to dryness under vacuum and the residue is crystallized from methanol. Yield 300 mg. Melting point of the HCl salt: 247°-251° C.; melting point free base 182°-184° C.

reactant | cis-10-hydroxy-2-methyl-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine | 1 g | O[C@@H]1C2=C([C@@H]3N(C4=C1C=CC=C4)CCN(C3)C)C=CC=C2 | C18H20N2O
reactant | HCl | Cl | ClH
reactant | methanol | 25 ml | CO | CH4O
product | Cis-10-methoxy-2-methyl-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine hydrochloride | Cl.CO[C@@H]1C2=C([C@@H]3N(C4=C1C=CC=C4)CCN(C3)C)C=CC=C2 | InChI=1S/C19H22N2O.ClH/c1-20-11-12-21-17-10-6-5-9-16(17)19(22-2)15-8-4-3-7-14(15)18(21)13-20;/h3-10,18-19H,11-13H2,1-2H3;1H/t18-,19-;/m1./s1
